US08859536B2
5-Bromo-1-(4-(trifluoromethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine (66A)
1-Iodo-4-(trifluoromethyl)benzene (1.657 g, 6.09 mmol) was added to a solution of 5-bromo-1H-pyrrolo[2,3-b]pyridine (1 g, 5.08 mmol) and Copper(I) bromide (0.073 g, 0.508 mmol) in DMF (10 mL) followed by potassium carbonate (1.75 g, 12.69 mmol), and the mixture was stirred at 100° C. for 10 min. NaOH (150 mg, 3.75 mmol) and copper(II) acetate (4.61 mg, 0.025 mmol) were added to the reaction mixture at 110° C., and the mixture was stirred for 16 h. Insoluble solids were filtered off, and the filtrate was concentrated. Residue was partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography using 10% ethyl acetate in pet ether to afford title compound (0.4 g, 22%) as a off-white solid. 1H NMR (400 MHz, CDCl3): δ 8.4 (d, J=2.0 Hz, 1H), 8.11 (d, J=2.4 Hz, 1H), 7.93 (d, J=8.0 Hz, 2H), 7.78 (d, J=8.8 Hz, 2H), 7.56 (d, J=4.0 Hz, 1H), 6.63 (d, J=3.6 Hz, 1H).

reactant | 1-Iodo-4-(trifluoromethyl)benzene | 6.09 mmol, 1.657 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 5.08 mmol, 1 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | potassium carbonate | 12.69 mmol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 3.75 mmol, 150 mg | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Copper(I) bromide | 0.508 mmol, 0.073 g | [Cu]Br
catalyst | copper(II) acetate | 0.025 mmol, 4.61 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-Bromo-1-(4-(trifluoromethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.4 g, 22% | BrC=1C=C2C(=NC1)N(C=C2)C2=CC=C(C=C2)C(F)(F)F | C14H8BrF3N2
